US05053416
1-benzoyloxy-3-(oxazol-2-yl)-1,2,5,6-tetrahydropyridine
2.5 g of 3-(oxazol-2-yl)-1,2,5,6-tetrahydropyridine hydrochloride prepared as in Example 6 and 3.22 g of potassium carbonate are added to a solution comprising 4.1 g of benzoyl peroxide in 30 cm3 of chloroform. After 2 hours of agitation at ambient temperature, then filtering, the filtrate is evaporated to dryness and the residue is purified by chromatography on silica (eluant: toluene-ethyl acetate 6-4). 2.4 g of product is obtained which is crystallized from cyclohexane.

reactant | 3-(oxazol-2-yl)-1,2,5,6-tetrahydropyridine hydrochloride | 2.5 g | Cl.O1C(=NC=C1)C=1CNCCC1
reactant | potassium carbonate | 3.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzoyl peroxide | 4.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chloroform | 30 cm3 | C(Cl)(Cl)Cl | CHCl3
product | 1-benzoyloxy-3-(oxazol-2-yl)-1,2,5,6-tetrahydropyridine | 2.4 g | C(C1=CC=CC=C1)(=O)ON1CC(=CCC1)C=1OC=CN1 | C15H14N2O3
